US05703266
Preparation of 3- (β-ethoxyethyl)p-aminophenol
58.5 g (0.3 mole) of 1-(β-ethoxyethyl)2-nitrobenzene was added at a temperature of 90° C. to a solution of 100 ml of concentrated sulphuric acid diluted in 1 liter of distilled water. 17 g of aluminium powder was added using a spatula and with vigourous stirring. Stirring was maintained for 40 minutes and then 70 g of tartaric acid was added. Stirring was continued for a further 15 minutes with the temperature maintained at 90° C. and then the reaction medium was cooled and the suspension filtered through sintered glass. The filtrate was neutralised with 20% ammonium hydroxide at a temperature below 20° C. A pinkish beige precipitate was obtained. The precipitate was taken up in 0.5 l of refluxing ethyl acetate, hot filtered and dry concentrated. It was recrystallised again from ethyl acetate to obtain beige crystals of the expected product which had a melting point of 102° C.

reactant | 1-(β-ethoxyethyl)2-nitrobenzene | 0.3 mole, 58.5 g | C(C)OCCC1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO3
reactant | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
reactant | aluminium | 17 g | [Al] | Al
reactant | tartaric acid | 70 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | water | 1 liter | O | H2O
solvent | ethyl acetate | 0.5 l | C(C)(=O)OCC | C4H8O2
product | 3- (β-ethoxyethyl)p-aminophenol | C(C)OCCC=1C=C(C=CC1N)O | C10H15NO2
